US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (148 mg, 0.570 mmol), 2-imidazol-1-yl-benzylamine (110 mg, 0.635 mmol), Pd2(dba)3 (53 mg, 0.0578 mmol), rac-BINAP (117 mg, 0.188 mmol) and NaOtBu (227 mg, 2.362 mmol) in DMA (5 mL) was heated at 85° C. for 45 minutes. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-(2-imidazol-1-yl-benzylamino)-2H-phthalazin-1-one (17 mg) as a yellow solid, 1H (400 MHz, d6-DMSO) δ: 4.24 (d, 2H), 6.64 (s, 1H), 7.06 (dd, 1H), 7.11 (s, 1H), 7.41 (m, 1H), 7.46 (m, 2H), 7.52 (m, 2H), 7.59 (t, 1H), 7.92 (m, 2H), 12.36 (1H) ppm; m/z (M+1) 351.99.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.570 mmol, 148 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 2-imidazol-1-yl-benzylamine | 0.635 mmol, 110 mg | N1(C=NC=C1)C1=C(CN)C=CC=C1 | C10H11N3
reactant | rac-BINAP | 0.188 mmol, 117 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 2.362 mmol, 227 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0578 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(2-imidazol-1-yl-benzylamino)-2H-phthalazin-1-one | 17 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=C(C=CC=C1)N1C=NC=C1)=O | C18H14ClN5O
